US07767827B2
To an ethanol (10 mL) solution of methyl 3-(2-chloro-6-fluoro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxylate (0.53 g, 1.5 mmol) was added 5% sodium hydroxide (8 mL), and the mixture was refluxed under heating for 2 hours. After completion of the reaction, the solvent was distilled off the reaction mixture, and then water was added, followed by extraction with ethyl acetate. The organic layers combined were washed with water, and dried over anhydrous magnesium sulfate and the solvent was distilled off. The resultant residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:5) to give a white solid of 3-(2-chloro-6-fluoro-4-trifluoromethylphenyloxy)-5-methylpyrazole (0.39 g, yield: 88.2%).

reactant | methyl 3-(2-chloro-6-fluoro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxylate | 1.5 mmol, 0.53 g | ClC1=C(C(=CC(=C1)C(F)(F)F)F)OC1=NN(C(=C1)C)C(=O)OC | C13H9ClF4N2O3
reactant | sodium hydroxide | 8 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(2-chloro-6-fluoro-4-trifluoromethylphenyloxy)-5-methylpyrazole | 0.39 g, yield: 88.2% | ClC1=C(C(=CC(=C1)C(F)(F)F)F)OC1=NNC(=C1)C | C11H7ClF4N2O
